US05308848
(1) Preparation of 4-phenyl-1-butene
40.4 g of methyltriphenylphosphonium iodide was suspended in 300 ml of anhydrous tetrahydrofuran, and 11.2 g of t-butoxypotassium was added thereto at room temperature. 50 ml of an anhydrous tetrahydrofuran solution containing 10.72 g of 2-phenylpropionaldehyde was added to the resulting suspension at 0° C., followed by stirring at room temperature for 2 hours. Afterward, 20 ml of water was added thereto, and the solution was concentrated to dryness under reduced pressure and 500 ml of ether was added to the resulting residue. The thus obtained ether solution was then washed with water and dried over anhydrous sodium sulfate, and the solvent was distilled off. Next, hexane was added to the residue, and insolubles were removed therefrom by filtration. The filtrate was concentrated to dryness, and the resulting yellow oily product was then purified through a silica gel column chromatograph (hexane) to obtain 9.2 g of a colorless oily product of 4-phenyl-1-butene.

reactant | methyltriphenylphosphonium iodide | 40.4 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-butoxypotassium | 11.2 g | C(C)(C)(C)O[K]
reactant | 2-phenylpropionaldehyde | 10.72 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-phenyl-1-butene | 9.2 g | C1(=CC=CC=C1)CCC=C | C10H12
